US08115006B2
Preparation (2) of 3-bromo-N-[2-bromo-4-chloro-6-[[(1-cyclopropylethyl)amino]carbonyl]phenyl]-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide
A mixed solution comprising 0.24 g of 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide and 5 ml of dimethylformamide was cooled with ice, 46 mg of 60% sodium hydride was added, and the temperature was returned to room temperature, followed by stirring for 25 minutes. The reaction liquid was cooled with ice again, and a mixed solution comprising 0.15 g of bromine and 1 ml of dimethylformamide was dropwise added over a period of 1 minute, followed by reaction at room temperature for 2 hours and 45 minutes. After completion of the reaction, the reaction liquid was slowly added to 60 ml of diluted hydrochloric acid. The mixed liquid was subjected to extraction with ethyl acetate, and the organic layer was washed with a saturated sodium hydrogen carbonate aqueous solution and with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=8/2 to 0/1) to obtain 0.20 g of the desired product (melting point: 244 to 247° C.) in the form of white crystals.

reactant | 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 0.24 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)C1=NC=CC=C1Cl | C21H18BrCl2N5O2
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | bromine | 0.15 g | BrBr | Br2
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-bromo-N-[2-bromo-4-chloro-6-[[(1-cyclopropylethyl)amino]carbonyl]phenyl]-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 0.20 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC(C)C1CC1)Cl)Br)C1=NC=CC=C1Cl | C21H17Br2Cl2N5O2
